US05495048
A mixture of 5.0 g of 3,4-dichlorophenyl 4'-methyl-4-biphenylyl ketone, 2.7 g of N-bromosuccinimide and 20 mg of azaisobutyronitrile in 70 ml of carbon tetrachloride is heated to boiling under reflux. The precipitated material is filtered and the filtrate is evaporated. The residue is recrystallized from toluene/cyclohexane. 3,4-Dichlorophenyl 4'-bromomethyl-4-biphenylyl ketone is obtained.

reactant | 3,4-dichlorophenyl 4'-methyl-4-biphenylyl ketone | 5.0 g | CC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)C1=CC(=C(C=C1)Cl)Cl | C20H14Cl2O
reactant | N-bromosuccinimide | 2.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azaisobutyronitrile | 20 mg | C(N(C)C)#N | C3H6N2
solvent | carbon tetrachloride | 70 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3,4-Dichlorophenyl 4'-bromomethyl-4-biphenylyl ketone | BrCC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)C1=CC(=C(C=C1)Cl)Cl | C20H13BrCl2O
